* c:\users\chaitanya\esim-workspace\rle_compressor_testing\rle_compressor_testing.cir

.include rle_compressor_subscircuit.sub
x1 clk0 rst0 data_in0 valid_in0 last_in0 count_out7 count_out6 count_out5 count_out4 count_out3 count_out2 count_out1 count_out0 value_out0 valid_out0 rle_compressor_subscircuit
* u6  count_out7 plot_v1
* u7  count_out6 plot_v1
* u8  count_out5 plot_v1
* u9  count_out4 plot_v1
* u10  count_out3 plot_v1
* u11  count_out2 plot_v1
* u12  count_out1 plot_v1
* u13  count_out0 plot_v1
* u14  value_out0 plot_v1
* u15  valid_out0 plot_v1
v1  clk0 gnd pulse(0 5 0 0 0 0.04 0.08)
v2  rst0 gnd pulse(0 5 0 0 0 0.2 1)
v3  data_in0 gnd pulse(0 5 0 0 0 0.5 0.8)
v4  valid_in0 gnd pulse(5 0 0 0 0 0.2 0.8)
v5  last_in0 gnd pulse(5 0 0 0 0 0.7 1)
* u2  rst0 plot_v1
* u3  data_in0 plot_v1
* u4  valid_in0 plot_v1
* u5  last_in0 plot_v1
* u1  clk0 plot_v1
.tran 0.0001e-00 2e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 4
plot v(count_out7)+ 6 v(count_out6) + 12 v(count_out5)+ 18 v(count_out4) + 24 v(count_out3) + 30 v(count_out2) + 36 v(count_out1) + 42 v(count_out0) + 48 v(value_out0) + 56 v(valid_out0)

plot v(rst0) + 6 v(data_in0) + 12 v(valid_in0) + 18 v(last_in0) + 24 v(clk0)
.endc
.end
