* c:\users\yamin\esim-workspace\round_robin\round_robin.cir

* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ round_robin_arbiter_verilog
* u9  clk reset req3 req2 req1 req0 net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ adc_bridge_6
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ grant3 grant2 grant1 grant0 dac_bridge_4
v1  clk gnd pulse(0 5 0.5 0 0 0.5 1)
v2  reset gnd pulse(5 0 0.3 0 0 8 16)
v3 req3 gnd pulse(0 5 1 0 0 2 8)
v4 req2 gnd pulse(0 5 2 0 0 2 8)
v5 req1 gnd pulse(0 5 3 0 0 2 8)
v6 req0 gnd pulse(0 5 4 0 0 2 8)
v7 vcc gnd  dc 5

* u7  req0 plot_v1
* u8  req0 plot_v1
* u6  req1 plot_v1
* u5  req2 plot_v1
* u4  req3 plot_v1
* u2  reset plot_v1
* u1  clk plot_v1
* u11  grant3 plot_v1
* u12  grant2 plot_v1
* u13  grant1 plot_v1
* u14  grant0 plot_v1
a1 [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ ] u3
a2 [clk reset req3 req2 req1 req0 ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] u9
a3 [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ ] [grant3 grant2 grant1 grant0 ] u10
* Schematic Name:                             round_robin_arbiter_verilog, NgSpice Name: round_robin_arbiter_verilog
.model u3 round_robin_arbiter_verilog(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.01e-00 8e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(req0)
plot v(req0)
plot v(req1)
plot v(req2)
plot v(req3)
plot v(reset)
plot v(clk)
plot v(grant3)
plot v(grant2)
plot v(grant1)
plot v(grant0)

plot v(grant3)+40 v(grant2) +30v(grant1) +20v(grant0) +10v(clk) +100v(reset)+90 v(req3) +80v(req2) +70v(req1) +60v(req0)+50
.endc
.end
