* c:\users\yamin\esim-workspace\round_robin_arbiter_testing\round_robin_arbiter_testing.cir

.include round_robin_arbiter_subcircuit.sub
v1  clk gnd pulse(0 5 0.5 0 0 0.5 1)
v2  reset gnd pulse(5 0 0.3 0 0 8 16)
vreq0 req0 0 dc 5
vreq1 req1 0 dc 5
vreq2 req2 0 dc 5
vreq3 req3 0 dc 5


* SIMULATION CONTROL (FAST)

* u7  grant3 plot_v1
* u8  grant2 plot_v1
* u9  grant1 plot_v1
* u10  grant0 plot_v1
* u1  clk plot_v1
* u2  reset plot_v1
* u3  req3 plot_v1
* u4  req2 plot_v1
* u5  req1 plot_v1
* u6  req0 plot_v1
x1 clk reset req3 req2 req1 req0 grant3 grant2 grant1 grant0 round_robin_arbiter_subcircuit
.tran 0.01e-00 8e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 3
plot v(grant3)+40 v(grant2) +30v(grant1) +20v(grant0) +10v(clk) +100v(reset)+90 v(req3) +80v(req2) +70v(req1) +60v(req0)+50
.endc
.end


