.title kicad schematic

* u4 net-_u1-pad2_ net-_u2-pad2_ net-_u3-pad2_ net-_u4-pad4_ seq_detector_1011
* u5 net-_u4-pad4_ /detect_out dac_bridge_1
* u1 /clk_in net-_u1-pad2_ adc_bridge_1
* u2 /reset_in net-_u2-pad2_ adc_bridge_1
* u3 /data_in net-_u3-pad2_ adc_bridge_1
a1 [net-_u1-pad2_ ] [net-_u2-pad2_ ] [net-_u3-pad2_ ] [net-_u4-pad4_ ] u4
a2 [net-_u4-pad4_ ] [/detect_out ] u5
a3 [/clk_in ] [net-_u1-pad2_ ] u1
a4 [/reset_in ] [net-_u2-pad2_ ] u2
a5 [/data_in ] [net-_u3-pad2_ ] u3
* Schematic Name:                             seq_detector_1011, Ngspice Name: seq_detector_1011
.model u4 seq_detector_1011(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
