.title kicad schematic

.include OSD2.sub
v3 data gnd pulse(0 5 5m 1u 1u 15m 30m)
x1 clk reset data detect OSD2
v2 reset gnd pulse(5 0 2m 1u 1u 1000m 1000m)
v1 clk gnd pulse(0 5 0 1u 1u 5m 10m)
.tran 100e-06 60e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
