* C:\FOSSEE\eSim\library\SubcircuitLibrary\deserializer_subcircuit\deserializer_subcircuit.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 04/04/26 14:08:44

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U4  Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ Net-_U2-Pad9_ dac_bridge_5		
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U2-Pad5_ Net-_U2-Pad6_ Net-_U2-Pad7_ Net-_U2-Pad8_ Net-_U2-Pad9_ PORT		
U3  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ adc_bridge_4		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ deserializer_verilog		

.end
